US08791265B2
N-[(2,5-difluorophenyl)sulfonyl]-N-{3-[1-ethyl-4-(pyridin-4-yl)-1H-pyrazol-3-yl]-2,4-difluorophenyl}acetamide (Cmpd No. 5)
N-{2,4-difluoro-3-[1-ethyl-4-(pyridin-4-yl)-1H-pyrazol-3-yl]phenyl}-2,5-difluorobenzenesulfonamide (80 mg, 0.168 mmol) was suspended in 3.5 mL of DCM and TEA (18.7 mg, 25.8 μL, 0.185 mmol) was added. Acetyl chloride (20.0 mg, 18.0 μL, 0.252 mmol) was added to the solution so obtained, and the reaction mixture was stirred at room temperature overnight, diluted with DCM, and poured in water. The organic layer was washed three times with water, once with brine, dried over Na2SO4 and concentrated to dryness. The solid so obtained was taken up with ethyl ether and filtered (79 mg, 91% yield)

reactant | N-{2,4-difluoro-3-[1-ethyl-4-(pyridin-4-yl)-1H-pyrazol-3-yl]phenyl}-2,5-difluorobenzenesulfonamide | 0.168 mmol, 80 mg | FC1=C(C=CC(=C1C1=NN(C=C1C1=CC=NC=C1)CC)F)NS(=O)(=O)C1=C(C=CC(=C1)F)F | C22H16F4N4O2S
reactant | Acetyl chloride | 0.252 mmol, 18.0 μL, 20.0 mg | C(C)(=O)Cl | C2H3ClO
reactant | ethyl ether | C(C)OCC | C4H10O
solvent | DCM | 3.5 mL | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | N-[(2,5-difluorophenyl)sulfonyl]-N-{3-[1-ethyl-4-(pyridin-4-yl)-1H-pyrazol-3-yl]-2,4-difluorophenyl}acetamide | 91% yield | FC1=C(C=C(C=C1)F)S(=O)(=O)N(C(C)=O)C1=C(C(=C(C=C1)F)C1=NN(C=C1C1=CC=NC=C1)CC)F | C24H18F4N4O3S
